US08729068B2
A mixture of 2.00 g of methyl 3-(bromomethyl)benzoate, 1.55 g of isopropylamine, and 10 mL of DMF was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (chloroform-methanol) to obtain 1.20 g of methyl 3-[(isopropylamino)methyl]benzoate as a colorless solid.

reactant | methyl 3-(bromomethyl)benzoate | 2.00 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | isopropylamine | 1.55 g | C(C)(C)N | C3H9N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 3-[(isopropylamino)methyl]benzoate | 1.20 g | C(C)(C)NCC=1C=C(C(=O)OC)C=CC1 | C12H17NO2
